US07253192B2
A] 2-Methyl-2-(2-methyl-4-pent-4-ynyloxy-phenoxy)-propionic acid ethyl ester
To a solution of 0.95 g (4.0 mmol) 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester (described in WO 02/092590) and 0.42 ml (4.0 mmol) 5-chloro-pent-1-yne in 20 ml acetonitrile were added 0.60 g (4.0 mmol) NaI and 1.56 g (4.80 mmol) Cs2CO3. The mixture was stirred at 50° C. for 3 days and every day 0.42 ml (4.0 mmol) 5-chloro-pent-1-yne and 1.56 g (4.80 mmol) Cs2CO3 were added (two times). After 2 further days stirring at ambient temperature and filtration, the solvent was evaporated. The residue was redissolved in dichloromethane, dried (Na2SO4), filtered and evaporated. Purification by flash chromatography (SiO2, n-heptane/EtOAc 2.5 to 5%) yielded 1.11 g of the title compound as colorless oil.

reactant | 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester | 4.0 mmol, 0.95 g | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)O)C)=O | C13H18O4
reactant | 5-chloro-pent-1-yne | 4.0 mmol, 0.42 ml | ClCCCC#C | C5H7Cl
reactant | NaI | 4.0 mmol, 0.60 g | [Na+].[I-]
reactant | Cs2CO3 | 4.80 mmol, 1.56 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 5-chloro-pent-1-yne | 4.0 mmol, 0.42 ml | ClCCCC#C | C5H7Cl
reactant | Cs2CO3 | 4.80 mmol, 1.56 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2-Methyl-2-(2-methyl-4-pent-4-ynyloxy-phenoxy)-propionic acid ethyl ester | 1.11 g | C(C)OC(C(C)(OC1=C(C=C(C=C1)OCCCC#C)C)C)=O | C18H24O4
